US07816558B2
212 mg of methyl 2-(3-cyano-4-fluorophenyl)isonicotinate and 68 mg of pyrazole were dissolved in 4 ml of DMSO, and 102 mg of potassium tert-butoxide was added, followed by stirring at room temperature for 30 minutes. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=67:33) to obtain 251 mg of methyl 2-[3-cyano-4-(1H-pyrazol-1-yl)phenyl]isonicotinate.

reactant | methyl 2-(3-cyano-4-fluorophenyl)isonicotinate | 212 mg | C(#N)C=1C=C(C=CC1F)C=1C=C(C(=O)OC)C=CN1 | C14H9FN2O2
reactant | pyrazole | 68 mg | N1N=CC=C1 | C3H4N2
reactant | potassium tert-butoxide | 102 mg | CC(C)([O-])C.[K+]
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | methyl 2-[3-cyano-4-(1H-pyrazol-1-yl)phenyl]isonicotinate | 251 mg | C(#N)C=1C=C(C=CC1N1N=CC=C1)C=1C=C(C(=O)OC)C=CN1 | C17H12N4O2
